US07919519B2
10% Palladium on carbon, Pearlman, (50% wet) (2.3 g, 2.2 mmol) and 4-benzyl-2-nitrophenol (5.00 g, 22 mmol) were combined under nitrogen and diluted with 80 mL MeOH delivered via syringe. The vessel was pressurized to 40 psi and shaken in a Parr shaker for ˜24 h. The resulting material was flushed with nitrogen and filtered through Celite, rinsing with MeOH. The filtrate was concentrated in vacuo to give 2-amino-4-benzylphenol as a brown solid. MS (ESI) m/z: Calculated: 199.1; Observed: 200.0 (M++1).

reactant | 4-benzyl-2-nitrophenol | 22 mmol, 5.00 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C13H11NO3
catalyst | Palladium on carbon | [Pd] | Pd
solvent | MeOH | 80 mL | CO | CH4O
product | 2-amino-4-benzylphenol | NC1=C(C=CC(=C1)CC1=CC=CC=C1)O | C13H13NO
